2173-03-04 06:37:00 Physician Resident Progress Note
Chief Complaint: 62 yo M with history of ischemic cardiomyopathy, HTN,
   AAA repair and emphysema now with hypoxic respiratory failure, acute
   renal failure and sepsis.
   24 Hour Events:
   - Bolused approx 7L NS and 1L isotonic bicarb with improvement in UOP
   and blood pressures
   - Mentating appropriately
   - Urine opiates positive on tox
   - Weaned to shovel mask with high flow oxygen
   Allergies:
   Zocor (Oral) (Simvastatin)
   muscle pain;
   Last dose of Antibiotics:
   Vancomycin - [**2173-3-3**] 09:02 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2173-3-4**] 06:36 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 37
C (98.6
   HR: 78 (71 - 78) bpm
   BP: 109/61(78) {83/50(59) - 121/64(78)} mmHg
   RR: 18 (10 - 18) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 122.8 kg (admission): 122.8 kg
             Total In:
                                                                  2,500 mL
                                                                    700 mL
   PO:
             TF:
   IVF:
                                                                  2,500 mL
                                                                    700 mL
   Blood products:
   Total out:
                                                                    530 mL
                                                                    860 mL
   Urine:
                                                                    530 mL
                                                                    860 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,970 mL
                                                                   -160 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 94%
   ABG: 7.19/39/72/16/-12; repeat: 7.28/36/86
   PaO2 / FiO2: 76
   Physical Examination
   Gen: Comfortable, NAD
   HEENT: Shovel mask in place
   CV: Distant heart sounds,  no rubs, no murmurs
   Pulm: Dull with wheeze over RLL, otherwise slight diffuse rales
   Abd: Obese, non-tender, non-distended, NABS
   Ext: pneumoboots in place, full and symmetric distal pulses
   Labs / Radiology
   247 K/uL
   10.3 g/dL
   100 mg/dL
   3.6 mg/dL
   16 mEq/L
   4.8 mEq/L
   81 mg/dL
   99 mEq/L
   131 mEq/L
   30.1 %
   13.5 K/uL
        [image002.jpg]
   BNP 16,405
   FDP 40-80
                             [**2173-3-3**]  05:34 PM
                             [**2173-3-3**]  06:35 PM
                             [**2173-3-4**]  04:02 AM
   WBC
   12.1
   13.5
   Hct
   31.9
   30.1
   Plt
   256
   247
   Cr
   4.9
   3.6
   TropT
   0.44
   0.45
   TCO2
   16
   Glucose
   84
   100
   Other labs: PT / PTT / INR:14.7/32.3/1.3, CK / CKMB /
   Troponin-T:621/17/0.45, Differential-Neuts:74.0 %, Band:3.0 %,
   Lymph:9.0 %, Mono:13.0 %, Eos:0.0 %, Fibrinogen:803 mg/dL, Lactic
   Acid:0.9 mmol/L, LDH:229 IU/L, Ca++:7.4 mg/dL, Mg++:2.3 mg/dL, PO4:5.9
   mg/dL
   Micro: Urine legionella antigen pending
   Influenza DFA: pending
   Ucx: NGTD
   Bcx x2: NGTD
   Urine eos negative
   Radiology: CXR [**3-4**]: no change from [**3-3**]
   Assessment and Plan
   A/P
   62 year old man with ischemic cardiomyopathy s/p BiV ICD here with
   hypoxic resp failure, acute renal failure and hypotension.
   # Hypotension: Patient was hypotensive, tachy, tachypneic and
   hypothermic with leukocytosis on admission.  Hypotension likely from
   combination of  poor po intake, pneumonia (sepsis) in setting of
   patient with poor cardiac reserve.  Does have trace heme+ stool as
   alternative for hypotension, but Hct near baseline to argue against
   significant bleed.  Other possibilies include cardiogenic origin but
   also less likely. Lactate has been normal (2.0 on admission).
   - 3 sets CE stable, elevated likely in the setting of renal failure and
   hypotension
   - TTE ordered for today to evaluate cardiac function
   - Continue to follow cultures (blood, urine and sputum)
   - Follow [**Hospital1 **] HCT
   - Broad Abx coverage with Levoflox and vanco overnight. Given
   improvement in clinical status, will dc vancomycin.  Can broaden
   coverage if decompensates.
   - Fluid bolused with alternating between isotonic bicarb and NS given
   combined resp and metabolic acidosis as per renal overnight. Blood
   pressure and UOP was fluid responsive, no need for further IVF unless
   hypotension returns or UOP declines.
   - DIC labs negative
   # Hypoxemic respiratory failure:  Likely CAP given RLL infiltrate but
   with elevated BNP and long cardiac history as well as renal failure
   would suggest CHF/volume overload as contributing.  CAP pathogens:
   typical, atypical such as Legionella, influenza.  Course not consistent
   with PE and currently CTA would be contra-indicated.  Patient had high
   AG acidosis likely [**12-26**] uremia given MS changes and normal lactate as
   well as a resp acidosis at the time of admission.
   -  Cycled cardiac enzymes, elevated but with negative MBI, trop likely
   elevated in the setting of renal failure
   - Sputum culture, r/o influenza, legionella Ag
   - TTE as above
   - Hold diuresis for now as tolerating shovel mask
   - Levoflox as above for pna
   - Supportive O2 for now. Consider non invasive PPV for progressive
   hypoxemia if needed.
   # Acute on chronic renal failure: Prior baseline from [**2-18**] was Cr
   1.3.  Patient does use extensive NSAIDs and in setting of infection and
   hypotension ATN also possible.  Patient appears to have signs of uremia
   (altered mental status, itching, poor PO intake).  Lack of RBC on UA
   make active nephritis less likely.
   - Renal consult last pm recommended no HD last night, consider BiPap
   for respiratory acidosis if needed. Will review urine sediment and sent
   urine studies (UA, Upro/cr, Uosm, lytes)
   - Renal US today
   - Urine smear for eos given NSAID use is negative
   - FeNa, though after some hydration, is 0.8
   - ANCA sent for pulmonary renal syndrome
   - Dose adjust meds for GFR <10
   # Metabolic Acidosis: anion gap acidosis as primary disorder with
   inadequate respiratory compensation.  Not-consistent with lactic
   acidosis as normal lactate. Uremia is most likely.
   - Renal consult as above
   - Serum osms
 no osmolar gap, tox screen pos for opiates likely due to
   codeine for cough
   # Cardiac: Elevation in CK, MB and troponin and BNP (no priors) in the
   setting of volume overload and infection.  Likely an exacerbation of
   his underlying ischemic CM (ie strain), but he does have significant
   disease at his baseline. ECG without new ischemic changes. BiV ICD in
   place
   - ASA, statin given cardiac history
   - Holding blood pressure meds including BB for now
   - TTE as above
   - Cont ASA.
   # Altered Mental status: Mostly resolved today. Appears to be most
   consistent with generalized encephalopathy potentially due from uremia,
   hypoxia, infection.
   - Correct underlying disorder
   - Can consider CT head or LP if worsens
   ICU Care
   Nutrition: Clear liquids, advance as tolerated
   Glycemic Control:
   Lines:
   18 Gauge - [**2173-3-3**] 04:55 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: Ranitidine
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: FULL
   Disposition: ICU

2173-03-04 09:58:00 Physician Attending Progress Note
Chief Complaint: hypotension, hypoxemia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   62 yo man with h/o CAD, emphysema, AAA repair, with 1 week h/o
   oliguria, malaise, sinus sxs, visual hallucinations. In ED hypotensive,
   hypoxemic, CXR RLL infiltrate. Resuscitated with 5L NS. ABG 7.18/40/81
   (unclear FiO2) with AG resp acidosis.
   24 Hour Events:
   Fluid resuscitated (8L including ED fluids) with good urine output.
   NRB transition to shovel mask with high flow O2 this AM.
   Afebrile.
   Remained off pressors.
   ARF improved with Cr decreasing with fluids.
   Allergies:
   Zocor (Oral) (Simvastatin)
   muscle pain;
   Last dose of Antibiotics:
   Vancomycin - [**2173-3-3**] 09:02 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2173-3-4**] 09:58 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.7
C (98
   HR: 84 (71 - 84) bpm
   BP: 122/67(80) {83/50(59) - 122/67(80)} mmHg
   RR: 20 (10 - 20) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 122.8 kg (admission): 122.8 kg
             Total In:
                                                                  2,500 mL
                                                                    749 mL
   PO:
             TF:
   IVF:
                                                                  2,500 mL
                                                                    749 mL
   Blood products:
   Total out:
                                                                    530 mL
                                                                  1,680 mL
   Urine:
                                                                    530 mL
                                                                  1,680 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,970 mL
                                                                   -931 mL
   Respiratory support
   O2 Delivery Device: High flow neb, Face tent
   SpO2: 94%
   ABG: 7.28/36/86 on shovel mask high flow
   PaO2 / FiO2: 91
   Physical Examination
   General Appearance: No acute distress, Overweight / Obese, hoarse
   voice, appears comfortable
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous: ), insp squeek and rhonchi right lateral
   Abdominal: Soft, Non-tender, Obese
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to): x3, Movement: Purposeful, Tone: Normal
   Labs / Radiology
   10.3 g/dL
   247 K/uL
   100 mg/dL
   3.6 mg/dL
   16 mEq/L
   4.8 mEq/L
   81 mg/dL
   99 mEq/L
   131 mEq/L
   30.1 %
   13.5 K/uL
        [image002.jpg]
                             [**2173-3-3**]  05:34 PM
                             [**2173-3-3**]  06:35 PM
                             [**2173-3-4**]  04:02 AM
                             [**2173-3-4**]  07:14 AM
   WBC
   12.1
   13.5
   Hct
   31.9
   30.1
   Plt
   256
   247
   Cr
   4.9
   3.6
   TropT
   0.44
   0.45
   TCO2
   16
   18
   Glucose
   84
   100
   Other labs: PT / PTT / INR:14.7/32.3/1.3, CK / CKMB /
   Troponin-T:621/17/0.45, Differential-Neuts:74.0 %, Band:3.0 %,
   Lymph:9.0 %, Mono:13.0 %, Eos:0.0 %, Fibrinogen:803 mg/dL, Lactic
   Acid:0.9 mmol/L, LDH:229 IU/L, Ca++:7.4 mg/dL, Mg++:2.3 mg/dL, PO4:5.9
   mg/dL
   Fluid analysis / Other labs: Cr 6.6 --> 3.6
   BNP > 16,000.
   Troponin trending down.
   Imaging: Faint diffuse bilateral hazy interstitial/alveolar pattern.
   Right lower lung field infiltrate slightly improved since yesterday.
   Microbiology: Urine legionella Ag pending
   ECG: Unchanged from v-paced prior ECG.
   Assessment and Plan
   HYPOTENSION
   DDx: severe CAP, dehydration, [**Last Name (un) **] cardiomyopathy
   Cx pending.
   Empiric Levofloxacin.
   HYPOXEMIC RESP FAILURE
   PNA, cardiac dysfunction
   Improved, with less FiO2 requirement., though still requiring high flow
   oxygen and continues to be hypoxemic.
   ARF
   NSAID use, cardiac failure, sepsis
   Dose adjusting meds
   METABOLIC AG ACIDOSIS WITH RESP ACIDOSIS
   Urine opiate +, with h/o cough syrup with codeine.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2173-03-05 07:53:00 Physician Resident Progress Note
Chief Complaint: 62 year old man with ischemic cardiomyopathy s/p BiV
   ICD here with hypoxic resp failure, acute renal failure and
   hypotension.
   24 Hour Events:
 TRANSTHORACIC ECHO - At [**2173-3-4**] 10:24 AM
 ULTRASOUND - At [**2173-3-4**] 11:30 AM
   Renal
    TTE= EF 40-50%; improved from previous ECHO
   - HCT remained stable; creatinine improved.  Renal without any other
   recs- just f/u in clinic
   - given 1L NS to keep approximately even (auto-diuresing)
   - renal ultrasound not done since patient could not tolerate holding
   breath
   - switched to NC and tolerated well
   - projectile vomited around 5 AM, a little nausea.  also slightly more
   sleepy/slightly disoriented.  FS ok. labs improving. ABG sent- pending
   Allergies:
   Zocor (Oral) (Simvastatin)
   muscle pain;
   Last dose of Antibiotics:
   Vancomycin - [**2173-3-3**] 09:02 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2173-3-5**] 05:29 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2173-3-5**] 07:53 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38
C (100.4
   Tcurrent: 37.1
C (98.7
   HR: 90 (77 - 98) bpm
   BP: 145/73(91) {118/63(77) - 158/78(95)} mmHg
   RR: 15 (9 - 25) insp/min
   SpO2: 95%
   Heart rhythm: V Paced
   Wgt (current): 122.8 kg (admission): 122.8 kg
             Total In:
                                                                  2,772 mL
                                                                  1,006 mL
   PO:
                                                                  1,470 mL
                                                                    150 mL
   TF:
   IVF:
                                                                  1,302 mL
                                                                    856 mL
   Blood products:
   Total out:
                                                                  4,680 mL
                                                                  1,940 mL
   Urine:
                                                                  4,680 mL
                                                                  1,540 mL
   NG:
   400 mL
   Stool:
   Drains:
   Balance:
                                                                 -1,908 mL
                                                                   -934 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: 7.46/30/71/17/0
   PaO2 / FiO2: 75
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   297 K/uL
   11.7 g/dL
   106 mg/dL
   1.3 mg/dL
   17 mEq/L
   4.5 mEq/L
   43 mg/dL
   105 mEq/L
   136 mEq/L
   33.7 %
   13.2 K/uL
        [image002.jpg]
                             [**2173-3-3**]  05:34 PM
                             [**2173-3-3**]  06:35 PM
                             [**2173-3-4**]  04:02 AM
                             [**2173-3-4**]  07:14 AM
                             [**2173-3-4**]  03:17 PM
                             [**2173-3-5**]  04:36 AM
                             [**2173-3-5**]  05:57 AM
   WBC
   12.1
   13.5
   13.2
   Hct
   31.9
   30.1
   32.2
   33.7
   Plt
   [**Telephone/Fax (3) 2078**]
   Cr
   4.9
   3.6
   2.0
   1.3
   TropT
   0.44
   0.45
   TCO2
   16
   18
   22
   Glucose
   84
   100
   75
   106
   Other labs: PT / PTT / INR:14.7/32.3/1.3, CK / CKMB /
   Troponin-T:621/17/0.45, Differential-Neuts:74.0 %, Band:3.0 %,
   Lymph:9.0 %, Mono:13.0 %, Eos:0.0 %, Fibrinogen:803 mg/dL, Lactic
   Acid:1.0 mmol/L, LDH:229 IU/L, Ca++:8.8 mg/dL, Mg++:2.5 mg/dL, PO4:2.6
   mg/dL
   Assessment and Plan
   62 year old man with ischemic cardiomyopathy s/p BiV ICD here with
   hypoxic resp failure, acute renal failure and hypotension.
    # Hypotension: Patient was hypotensive, tachy, tachypneic and
   hypothermic with leukocytosis on admission.  Hypotension likely from
   combination of  poor po intake, pneumonia (sepsis) in setting of
   patient with poor cardiac reserve.  Does have trace heme+ stool as
   alternative for hypotension, but Hct near baseline to argue against
   significant bleed.  Other possibilies include cardiogenic origin but
   also less likely. Lactate has been normal (2.0 on admission).
   - 3 sets CE stable, elevated likely in the setting of renal failure and
   hypotension
   - TTE ordered for today to evaluate cardiac function
   - Continue to follow cultures (blood, urine and sputum)
   - Follow [**Hospital1 **] HCT
   - Broad Abx coverage with Levoflox and vanco overnight. Given
   improvement in clinical status, will dc vancomycin.  Can broaden
   coverage if decompensates.
   - Fluid bolused with alternating between isotonic bicarb and NS given
   combined resp and metabolic acidosis as per renal overnight. Blood
   pressure and UOP was fluid responsive, no need for further IVF unless
   hypotension returns or UOP declines.
   - DIC labs negative
   # Hypoxemic respiratory failure:  Likely CAP given RLL infiltrate but
   with elevated BNP and long cardiac history as well as renal failure
   would suggest CHF/volume overload as contributing.  CAP pathogens:
   typical, atypical such as Legionella, influenza.  Course not consistent
   with PE and currently CTA would be contra-indicated.  Patient had high
   AG acidosis likely [**12-26**] uremia given MS changes and normal lactate as
   well as a resp acidosis at the time of admission.
   -  Cycled cardiac enzymes, elevated but with negative MBI, trop likely
   elevated in the setting of renal failure
   - Sputum culture, r/o influenza, legionella Ag
   - TTE as above
   - Hold diuresis for now as tolerating shovel mask
   - Levoflox as above for pna
   - Supportive O2 for now. Consider non invasive PPV for progressive
   hypoxemia if needed.
   # Acute on chronic renal failure: Prior baseline from [**2-18**] was Cr
   1.3.  Patient does use extensive NSAIDs and in setting of infection and
   hypotension ATN also possible.  Patient appears to have signs of uremia
   (altered mental status, itching, poor PO intake).  Lack of RBC on UA
   make active nephritis less likely.
   - Renal consult last pm recommended no HD last night, consider BiPap
   for respiratory acidosis if needed. Will review urine sediment and sent
   urine studies (UA, Upro/cr, Uosm, lytes)
   - Renal US today
   - Urine smear for eos given NSAID use is negative
   - FeNa, though after some hydration, is 0.8
   - ANCA sent for pulmonary renal syndrome
   - Dose adjust meds for GFR <10
   # Metabolic Acidosis: anion gap acidosis as primary disorder with
   inadequate respiratory compensation.  Not-consistent with lactic
   acidosis as normal lactate. Uremia is most likely.
   - Renal consult as above
   - Serum osms
 no osmolar gap, tox screen pos for opiates likely due to
   codeine for cough
   # Cardiac: Elevation in CK, MB and troponin and BNP (no priors) in the
   setting of volume overload and infection.  Likely an exacerbation of
   his underlying ischemic CM (ie strain), but he does have significant
   disease at his baseline. ECG without new ischemic changes. BiV ICD in
   place
   - ASA, statin given cardiac history
   - Holding blood pressure meds including BB for now
   - TTE as above
   - Cont ASA.
   # Altered Mental status: Mostly resolved today. Appears to be most
   consistent with generalized encephalopathy potentially due from uremia,
   hypoxia, infection.
   - Correct underlying disorder
   - Can consider CT head or LP if worsens
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2173-3-4**] 08:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2173-03-05 10:07:00 Physician Attending Progress Note
Chief Complaint: resp failure, hypotension, ARF
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   62 yo man with [**Last Name (un) **] cardiomyopathy in MICU with hypoxemic resp failure,
   pna, ARF, hypotension
   24 Hour Events:
 TRANSTHORACIC ECHO - At [**2173-3-4**] 10:24 AM
 ULTRASOUND - At [**2173-3-4**] 11:30 AM
   Did not tolerate-- too tachypneic
   Blood in emesis this morning.
   RN resports witnessed apneas while sleeping.
   Allergies:
   Zocor (Oral) (Simvastatin)
   muscle pain;
   Last dose of Antibiotics:
   Vancomycin - [**2173-3-3**] 09:02 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2173-3-5**] 05:29 AM
   Other medications:
   See Dr[**Name (NI) 2027**] note for meds.
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2173-3-5**] 10:06 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38
C (100.4
   Tcurrent: 37.1
C (98.7
   HR: 91 (77 - 98) bpm
   BP: 174/86(105) {120/63(77) - 174/86(105)} mmHg
   RR: 15 (9 - 25) insp/min
   SpO2: 93%
   Heart rhythm: V Paced
   Wgt (current): 122.8 kg (admission): 122.8 kg
             Total In:
                                                                  2,772 mL
                                                                  1,304 mL
   PO:
                                                                  1,470 mL
                                                                    210 mL
   TF:
   IVF:
                                                                  1,302 mL
                                                                  1,094 mL
   Blood products:
   Total out:
                                                                  4,680 mL
                                                                  2,310 mL
   Urine:
                                                                  4,680 mL
                                                                  1,860 mL
   NG:
   450 mL
   Stool:
   Drains:
   Balance:
                                                                 -1,908 mL
                                                                 -1,006 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 93%
   ABG: 7.46/30/71/17/0
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), RRR
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : ),
   shallow, calm breathing
   Abdominal: Soft, Non-tender, Bowel sounds present, coffee ground emesis
   visualized
   Extremities: Right: Absent, Left: Absent
   Musculoskeletal: No(t) Muscle wasting
   Skin:  Warm, No(t) Rash:
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to): all, Movement: Purposeful, Tone: Not assessed
   Labs / Radiology
   11.7 g/dL
   297 K/uL
   106 mg/dL
   1.3 mg/dL
   17 mEq/L
   4.5 mEq/L
   43 mg/dL
   105 mEq/L
   136 mEq/L
   33.7 %
   13.2 K/uL
        [image002.jpg]
                             [**2173-3-3**]  05:34 PM
                             [**2173-3-3**]  06:35 PM
                             [**2173-3-4**]  04:02 AM
                             [**2173-3-4**]  07:14 AM
                             [**2173-3-4**]  03:17 PM
                             [**2173-3-5**]  04:36 AM
                             [**2173-3-5**]  05:57 AM
   WBC
   12.1
   13.5
   13.2
   Hct
   31.9
   30.1
   32.2
   33.7
   Plt
   [**Telephone/Fax (3) 2078**]
   Cr
   4.9
   3.6
   2.0
   1.3
   TropT
   0.44
   0.45
   TCO2
   16
   18
   22
   Glucose
   84
   100
   75
   106
   Other labs: PT / PTT / INR:14.7/32.3/1.3, CK / CKMB /
   Troponin-T:621/17/0.45, Differential-Neuts:74.0 %, Band:3.0 %,
   Lymph:9.0 %, Mono:13.0 %, Eos:0.0 %, Fibrinogen:803 mg/dL, Lactic
   Acid:1.0 mmol/L, LDH:229 IU/L, Ca++:8.8 mg/dL, Mg++:2.5 mg/dL, PO4:2.6
   mg/dL
   Fluid analysis / Other labs: ANCA negative
   Microbiology: Sputum- poor sample
   Assessment and Plan
   IVF given for autodiuresis.
   Cr at baseline.
   CAP: Cont empiric Levofloxacin
   UGIB/loose stools/coffee ground emesis: nausea/vom likely secondary to
   viral gastroenteritis. UGIB likely secondary to gastritis given h/o
   high NSAID use chronically.
   HYPOTENSION: resolved, had been secondary to severe CAP, dehydration,
   [**Last Name (un) **] cardiomyopathy
   HYPERTENSION: no PO meds now. Hydralazine prn while NPO.
   HYPOXEMIC RESP FAILURE: PNA, cardiac dysfunction Improved, with less
   FiO2 requirement., though still requiring high flow oxygen and
   continues to be hypoxemic.
   OSA with witnessed apneas by RN. Had nocturnal desaturations. Start
   CPAP for sleep.
   ARF: Cr back to baseline. Prerenal, sepsis.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2173-3-4**] 08:00 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent:

2173-03-06 06:48:00 Physician Resident Progress Note
Chief Complaint: 62 year old man with ischemic cardiomyopathy s/p BiV
   ICD here with hypoxic resp failure, acute renal failure and
   hypotension.
   24 Hour Events:
   -Sleep study overnight with sleep fellow given episodes of observed
   apnea, awaiting read/recs
   diarrhea. Suggest 24 hours stable cr before restarting ACEI.
   -One episode gastroccult pos emesis yesterday am, Hct stable and
   unchanged x >12 hours
   -Tolerating clears
   -PM lytes continued to improve with normal bicarb/cr.
   Allergies:
   Zocor (Oral) (Simvastatin)
   muscle pain;
   Last dose of Antibiotics:
   Vancomycin - [**2173-3-3**] 09:02 PM
   Levofloxacin - [**2173-3-5**] 11:30 AM
   Infusions:
   Other ICU medications:
   Ranitidine (Prophylaxis) - [**2173-3-5**] 09:00 AM
   Pantoprazole (Protonix) - [**2173-3-5**] 11:38 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2173-3-6**] 06:48 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 37.1
C (98.8
   HR: 96 (78 - 98) bpm
   BP: 152/69(89) {121/69(82) - 174/92(105)} mmHg
   RR: 18 (9 - 23) insp/min
   SpO2: 94%
   Heart rhythm: V Paced
   Wgt (current): 122.8 kg (admission): 122.8 kg
   Height: 74 Inch
             Total In:
                                                                  3,053 mL
                                                                    902 mL
   PO:
                                                                    450 mL
                                                                    850 mL
   TF:
   IVF:
                                                                  2,603 mL
                                                                     52 mL
   Blood products:
   Total out:
                                                                  3,935 mL
                                                                    920 mL
   Urine:
                                                                  3,285 mL
                                                                    920 mL
   NG:
                                                                    450 mL
   Stool:
   Drains:
   Balance:
                                                                   -882 mL
                                                                    -18 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula 4L
   SpO2: 94%
   ABG: ///23/
   Physical Examination
   Gen:Obese, NAD, sleepy but easily arousable
   HEENT:NCAT
   CV: RRR
   Pulm: Clear, symmetric expansion
   Abd: NTND, NABS
   Ext: WWP, symmetric pulses, pneumoboots
   Labs / Radiology
   303 K/uL
   12.4 g/dL
   100 mg/dL
   1.0 mg/dL
   23 mEq/L
   4.3 mEq/L
   26 mg/dL
   106 mEq/L
   140 mEq/L
   35.3 %
   14.9 K/uL
        [image002.jpg]
                             [**2173-3-3**]  05:34 PM
                             [**2173-3-3**]  06:35 PM
                             [**2173-3-4**]  04:02 AM
                             [**2173-3-4**]  07:14 AM
                             [**2173-3-4**]  03:17 PM
                             [**2173-3-5**]  04:36 AM
                             [**2173-3-5**]  05:57 AM
                             [**2173-3-5**]  07:10 PM
                             [**2173-3-6**]  04:48 AM
   WBC
   12.1
   13.5
   13.2
   14.9
   Hct
   31.9
   30.1
   32.2
   33.7
   33.4
   35.3
   Plt
   [**Telephone/Fax (3) 2106**]03
   Cr
   4.9
   3.6
   2.0
   1.3
   1.0
   1.0
   TropT
   0.44
   0.45
   TCO2
   16
   18
   22
   Glucose
   84
   100
   75
   106
   101
   100
   Other labs: PT / PTT / INR:14.7/32.3/1.3, CK / CKMB /
   Troponin-T:621/17/0.45, Differential-Neuts:74.0 %, Band:3.0 %,
   Lymph:9.0 %, Mono:13.0 %, Eos:0.0 %, Fibrinogen:803 mg/dL, Lactic
   Acid:1.0 mmol/L, LDH:229 IU/L, Ca++:8.9 mg/dL, Mg++:2.1 mg/dL, PO4:2.0
   mg/dL
   Imaging: CXR [**3-5**]: Unchanged pulmonary edema. A rounded mid right lung
   opacity
   raises suspicion for a developing pneumonia. Asymmetric edema is a less
   likely consideration.
   Microbiology: C. Diff: Pending
   [**3-4**] Sputum: Contaminated
   Legionella Urinary Ag: Neg
   Influenza DFA: Neg
   Assessment and Plan
   62 year old man with ischemic cardiomyopathy s/p BiV ICD here with
   hypoxic resp failure, acute renal failure and hypotension now with
   episode of gastroccult + emesis.
   # Hypoxic respiratory failure: Likely in the setting of pneumonia and
   pulm edema in the setting of ischemia cardiomyopathy - improved; now on
   NC 4L with good O2 sats
   - Cont levofloxacin for CAP
   - Patient desats at night with apneic episodes; awaiting read and
   recommendations from overnight sleep study (CPAP recs
 will inform RT
   when available)
   - Cont nebs PRN
   - Hypotension resolved.  Not needing fluid boluses any longer which
   will help with pulm edema
   - F/u cultures
   # GI: Patient with nausea, vomiting now resolved. Still with persistent
   loose stool.  Seems most consistent with a viral gastroenteritis though
   concern for C. Diff.  Hct stable after gastroccult pos emesis.
   - Had gastroccult + emesis.  PPI [**Hospital1 **] IV started, changed to PO qday
   today.  Was likely in the setting of NSAID use causing gastritis with
   poor PO intake
   - Ondansetron and compazine PRN nausea
   - Supportive IVFs for poor PO intake
   - Tolerated clears overnight, advance diet as tolerated as nausea
   improved.
   - Follow up C. diff
   # Acute Kidney Injury: Markedly improved creatinine.  Back to baseline
   at 1.0. Likely in the setting of NSAIDS, decreased PO and hypotension.
   - Appreciate renal recs, patient to follow up with renal as outpatient.
   - Having good UOP, possibly a component of post ATN diuresis.  Will
   give IVF to keep goal of even
   - Will continue to hold [**Last Name (un) 239**] today until Creatinine stable >24 per renal
   recs.
   # Cardiac: Elevation in CK, MB and troponin and BNP (no priors) in the
   setting of volume overload and infection.  Likely an exacerbation of
   his underlying ischemic CM (ie strain), but he does have significant
   disease at his baseline. ECG without new ischemic changes. BiV ICD in
   place
   - ASA, statin given cardiac history
   - Will restart BB today as BP stable and HR in the 80s-90s.  On
   amlodipine and hydral prn for elevated sbp > 165.
   - Will restart [**Last Name (un) 239**] tomorrow if creatinine continues ot be stable as
   above.
    - TTE shows slightly improved EF
   # Altered Mental status: Improved. Patient somnolent this morning,
   likely in the setting of sleep apnea
   - Hold ativan for now
   - Last ABG without evidence of CO2 retention. Cont to monitor O2 sats
   - No significant electrolyte abnormalities.  Cont to monitor.  Finger
   sticks within normal range
   ICU Care
   Nutrition: clears, advance as tolerated
   Glycemic Control:  None, will monitor FS QID
   Lines:
   2 peripherals
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI IV BID changed to PO qday as above
   VAP:  Not intubated
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU, likely call out once sleep study evaluated/CPAP
   initiated

2173-03-06 10:20:00 Physician Attending Progress Note
Chief Complaint: ARF, resp distress
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   24 Hour Events:
   - overnight polysomnography
   - no further episodes of hemetemesis, Hct stable
   Allergies:
   Zocor (Oral) (Simvastatin)
   muscle pain;
   Last dose of Antibiotics:
   Vancomycin - [**2173-3-3**] 09:02 PM
   Levofloxacin - [**2173-3-5**] 11:30 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2173-3-6**] 08:00 AM
   Other medications:
   ASA, effexor, amlodipine, PPI, Lipitor
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems: no abd pain, denied dyspnea, + somnelence
   Flowsheet Data as of  [**2173-3-6**] 10:19 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 37.3
C (99.2
   HR: 83 (78 - 98) bpm
   BP: 132/52(71) {121/52(71) - 166/92(104)} mmHg
   RR: 16 (9 - 23) insp/min
   SpO2: 96%
   Heart rhythm: V Paced
   Wgt (current): 122.8 kg (admission): 122.8 kg
   Height: 74 Inch
             Total In:
                                                                  3,053 mL
                                                                  1,162 mL
   PO:
                                                                    450 mL
                                                                  1,100 mL
   TF:
   IVF:
                                                                  2,603 mL
                                                                     62 mL
   Blood products:
   Total out:
                                                                  3,935 mL
                                                                  1,160 mL
   Urine:
                                                                  3,285 mL
                                                                  1,160 mL
   NG:
                                                                    450 mL
   Stool:
   Drains:
   Balance:
                                                                   -882 mL
                                                                      2 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///23/
   Physical Examination
   Gen: obese man, lying in bed, somnolent but arouasable
   CV: RR
   Chest: fair air movement, no wheezes, no rales
   Abd: obese soft Nt + BS
   Ext: no edema
   Labs / Radiology
   12.4 g/dL
   303 K/uL
   100 mg/dL
   1.0 mg/dL
   23 mEq/L
   4.3 mEq/L
   26 mg/dL
   106 mEq/L
   140 mEq/L
   35.3 %
   14.9 K/uL
        [image002.jpg]
                             [**2173-3-3**]  05:34 PM
                             [**2173-3-3**]  06:35 PM
                             [**2173-3-4**]  04:02 AM
                             [**2173-3-4**]  07:14 AM
                             [**2173-3-4**]  03:17 PM
                             [**2173-3-5**]  04:36 AM
                             [**2173-3-5**]  05:57 AM
                             [**2173-3-5**]  07:10 PM
                             [**2173-3-6**]  04:48 AM
   WBC
   12.1
   13.5
   13.2
   14.9
   Hct
   31.9
   30.1
   32.2
   33.7
   33.4
   35.3
   Plt
   [**Telephone/Fax (3) 2106**]03
   Cr
   4.9
   3.6
   2.0
   1.3
   1.0
   1.0
   TropT
   0.44
   0.45
   TCO2
   16
   18
   22
   Glucose
   84
   100
   75
   106
   101
   100
   Other labs: PT / PTT / INR:14.7/32.3/1.3, CK / CKMB /
   Troponin-T:621/17/0.45, Differential-Neuts:74.0 %, Band:3.0 %,
   Lymph:9.0 %, Mono:13.0 %, Eos:0.0 %, Fibrinogen:803 mg/dL, Lactic
   Acid:1.0 mmol/L, LDH:229 IU/L, Ca++:8.9 mg/dL, Mg++:2.1 mg/dL, PO4:2.0
   mg/dL
   Assessment and Plan
   HYPOXEMIC RESP FAILURE: due to possible PNA, and volume overload-
   decreased FiO2 requirement now down to 4L.
   CAP: Cont empiric Levofloxacin for 7 day course
   ARF: Cr back to baseline. ATN with NSAIDs and sepsis. Would hold [**Last Name (un) 239**]
   one more day and restart in AM.
   CAD: restart Bblocker and trend BPs with this add on, continue ASA,
   statin
   UGIB/loose stools/coffee ground emesis: nausea/vom likely secondary to
   viral gastroenteritis. UGIB likely secondary to gastritis given h/o
   high NSAID use chronically. No further episodes, Change to PO PPI [**Hospital1 **]
   then likely QD. HCt stable.
   OSA with witnessed apneas by RN. Sleep study last PM, follow up results
   for possible CPAP initiation on the floor.
   ICU Care
   Nutrition: AHA diet
   Glycemic Control:  sliding scale
   Lines: 2 PIV
   20 Gauge - [**2173-3-5**] 08:23 PM
   Prophylaxis:
   DVT: boots
   Stress ulcer: PPI
   Communication:
   Code status: Full code
   Disposition : call out if able to get non invasive nocturnal vent on
   floor tonight
   Total time spent: 35

2173-03-07 07:33:00 Physician Resident Progress Note
Chief Complaint: 62 year old man with ischemic cardiomyopathy s/p BiV
   ICD here with hypoxic resp failure, acute renal failure and hypotension
   now with episode of gastroccult + emesis.
   24 Hour Events:
 STOOL CULTURE - At [**2173-3-6**] 04:30 PM
   - Diet advanced
   - Awaiting read for sleep study from prior night -> starting CPAP
   tonight in ICU for continuous monitoring -> Per Dr. [**Last Name (STitle) 984**], unable
   to glean any info from sleep study, would recommend CPAP at 6 with
   current NC setting tonight, RT who did study attempting to get Adaptic
   but unlikely tonight, [**Doctor Last Name 984**] to see patient in the morning
   - Patient would not wear nasal CPAP
   - C. Diff x1 negative, 2nd sample sent
   Allergies:
   Zocor (Oral) (Simvastatin)
   muscle pain;
   Last dose of Antibiotics:
   Levofloxacin - [**2173-3-6**] 12:00 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2173-3-6**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2173-3-7**] 07:32 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.7
   Tcurrent: 36.7
C (98.1
   HR: 82 (78 - 94) bpm
   BP: 159/80(99) {107/35(53) - 159/93(107)} mmHg
   RR: 21 (12 - 25) insp/min
   SpO2: 93%
   Heart rhythm: V Paced
   Wgt (current): 122.8 kg (admission): 122.8 kg
   Height: 74 Inch
                  Total In:
                                                                  2,412 mL
                                                                    500 mL
   PO:
                                                                  2,250 mL
                                                                    500 mL
   TF:
   IVF:
                                                                    162 mL
   Blood products:
   Total out:
                                                                  3,250 mL
                                                                    840 mL
   Urine:
                                                                  2,650 mL
                                                                    840 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -838 mL
                                                                   -340 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 93%
   ABG: ///22/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   321 K/uL
   12.7 g/dL
   91 mg/dL
   0.9 mg/dL
   22 mEq/L
   3.7 mEq/L
   21 mg/dL
   102 mEq/L
   135 mEq/L
   36.3 %
   17.7 K/uL
        [image002.jpg]
                             [**2173-3-3**]  05:34 PM
                             [**2173-3-3**]  06:35 PM
                             [**2173-3-4**]  04:02 AM
                             [**2173-3-4**]  07:14 AM
                             [**2173-3-4**]  03:17 PM
                             [**2173-3-5**]  04:36 AM
                             [**2173-3-5**]  05:57 AM
                             [**2173-3-5**]  07:10 PM
                             [**2173-3-6**]  04:48 AM
                             [**2173-3-7**]  04:01 AM
   WBC
   12.1
   13.5
   13.2
   14.9
   17.7
   Hct
   31.9
   30.1
   32.2
   33.7
   33.4
   35.3
   36.3
   Plt
   [**Telephone/Fax (3) 2106**]03
   321
   Cr
   4.9
   3.6
   2.0
   1.3
   1.0
   1.0
   0.9
   TropT
   0.44
   0.45
   TCO2
   16
   18
   22
   Glucose
   84
   100
   75
   106
   101
   100
   91
   Other labs: PT / PTT / INR:16.3/28.3/1.5, CK / CKMB /
   Troponin-T:621/17/0.45, Differential-Neuts:74.0 %, Band:3.0 %,
   Lymph:9.0 %, Mono:13.0 %, Eos:0.0 %, Fibrinogen:803 mg/dL, Lactic
   Acid:1.0 mmol/L, LDH:229 IU/L, Ca++:8.7 mg/dL, Mg++:1.7 mg/dL, PO4:2.7
   mg/dL
   Assessment and Plan
   62 year old man with ischemic cardiomyopathy s/p BiV ICD here with
   hypoxic resp failure, acute renal failure and hypotension now with
   episode of gastroccult + emesis.
   # Hypoxic respiratory failure: Likely in the setting of pneumonia and
   pulm edema in the setting of ischemia cardiomyopathy - improved; now on
   NC 4L with good O2 sats
   - Cont levofloxacin for CAP
   - Patient desats at night with apneic episodes; awaiting read and
   recommendations from overnight sleep study (CPAP recs
 will inform RT
   when available)
   - Cont nebs PRN
   - Hypotension resolved.  Not needing fluid boluses any longer which
   will help with pulm edema
   - F/u cultures
   # GI: Patient with nausea, vomiting now resolved. Still with persistent
   loose stool.  Seems most consistent with a viral gastroenteritis though
   concern for C. Diff.  Hct stable after gastroccult pos emesis.
   - Had gastroccult + emesis.  PPI [**Hospital1 **] IV started, changed to PO qday
   today.  Was likely in the setting of NSAID use causing gastritis with
   poor PO intake
   - Ondansetron and compazine PRN nausea
   - Supportive IVFs for poor PO intake
   - Tolerated clears overnight, advance diet as tolerated as nausea
   improved.
   - Follow up C. diff
   # Acute Kidney Injury: Markedly improved creatinine.  Back to baseline
   at 1.0. Likely in the setting of NSAIDS, decreased PO and hypotension.
   - Appreciate renal recs, patient to follow up with renal as outpatient.
   - Having good UOP, possibly a component of post ATN diuresis.  Will
   give IVF to keep goal of even
   - Will continue to hold [**Last Name (un) 239**] today until Creatinine stable >24 per renal
   recs.
   # Cardiac: Elevation in CK, MB and troponin and BNP (no priors) in the
   setting of volume overload and infection.  Likely an exacerbation of
   his underlying ischemic CM (ie strain), but he does have significant
   disease at his baseline. ECG without new ischemic changes. BiV ICD in
   place
   - ASA, statin given cardiac history
   - Will restart BB today as BP stable and HR in the 80s-90s.  On
   amlodipine and hydral prn for elevated sbp > 165.
   - Will restart [**Last Name (un) 239**] tomorrow if creatinine continues ot be stable as
   above.
    - TTE shows slightly improved EF
   # Altered Mental status: Improved. Patient somnolent this morning,
   likely in the setting of sleep apnea
   - Hold ativan for now
   - Last ABG without evidence of CO2 retention. Cont to monitor O2 sats
   - No significant electrolyte abnormalities.  Cont to monitor.  Finger
   sticks within normal range
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2173-3-5**] 08:23 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2173-03-07 10:24:00 Physician Attending Progress Note
Chief Complaint: ARF, resp distress, GI bleed
   HPI:
   24 Hour Events:
 STOOL CULTURE - At [**2173-3-6**] 04:30 PM
   tried nasal CPAP last PM but could not tolerate
   Tolerated advancing diet
   Off Oxygen this AM
   Allergies:
   Zocor (Oral) (Simvastatin)
   muscle pain;
   Last dose of Antibiotics:
   Levofloxacin - [**2173-3-6**] 12:00 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue, apnea, rhonorrhea
   Flowsheet Data as of  [**2173-3-7**] 10:24 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.7
   Tcurrent: 36.4
C (97.5
   HR: 76 (76 - 94) bpm
   BP: 150/74(93) {107/35(53) - 159/93(107)} mmHg
   RR: 23 (12 - 25) insp/min
   SpO2: 94%
   Heart rhythm: V Paced
   Wgt (current): 122.8 kg (admission): 122.8 kg
   Height: 74 Inch
                  Total In:
                                                                  2,412 mL
                                                                    750 mL
   PO:
                                                                  2,250 mL
                                                                    750 mL
   TF:
   IVF:
                                                                    162 mL
   Blood products:
   Total out:
                                                                  3,250 mL
                                                                  1,140 mL
   Urine:
                                                                  2,650 mL
                                                                  1,140 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -838 mL
                                                                   -390 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 94%
   ABG: ///22/
   Physical Examination
    Gen: obese man, sitting in chair alert and interactive
   CV: RR
   Chest: fair air movement, no wheezes, no rales
   Abd: obese soft Nt + BS
   Ext: no edema
   Labs / Radiology
   12.7 g/dL
   321 K/uL
   91 mg/dL
   0.9 mg/dL
   22 mEq/L
   3.7 mEq/L
   21 mg/dL
   102 mEq/L
   135 mEq/L
   36.3 %
   17.7 K/uL
        [image002.jpg]
                             [**2173-3-3**]  05:34 PM
                             [**2173-3-3**]  06:35 PM
                             [**2173-3-4**]  04:02 AM
                             [**2173-3-4**]  07:14 AM
                             [**2173-3-4**]  03:17 PM
                             [**2173-3-5**]  04:36 AM
                             [**2173-3-5**]  05:57 AM
                             [**2173-3-5**]  07:10 PM
                             [**2173-3-6**]  04:48 AM
                             [**2173-3-7**]  04:01 AM
   WBC
   12.1
   13.5
   13.2
   14.9
   17.7
   Hct
   31.9
   30.1
   32.2
   33.7
   33.4
   35.3
   36.3
   Plt
   [**Telephone/Fax (3) 2106**]03
   321
   Cr
   4.9
   3.6
   2.0
   1.3
   1.0
   1.0
   0.9
   TropT
   0.44
   0.45
   TCO2
   16
   18
   22
   Glucose
   84
   100
   75
   106
   101
   100
   91
   Other labs: PT / PTT / INR:16.3/28.3/1.5, CK / CKMB /
   Troponin-T:621/17/0.45, Differential-Neuts:74.0 %, Band:3.0 %,
   Lymph:9.0 %, Mono:13.0 %, Eos:0.0 %, Fibrinogen:803 mg/dL, Lactic
   Acid:1.0 mmol/L, LDH:229 IU/L, Ca++:8.7 mg/dL, Mg++:1.7 mg/dL, PO4:2.7
   mg/dL
   Assessment and Plan
   HYPOXEMIC RESP FAILURE: due to possible PNA, and volume overload-
   decreased FiO2 requirement now down to 2L.
   CAP: Cont empiric Levofloxacin for 7 day course
   ARF: Cr back to baseline. ATN with NSAIDs and sepsis. Restarted Diovan.
   Trend Cr
   CAD: restart [**Initials (NamePattern4) **] [**Last Name (NamePattern4) 2125**] and trend BPs with this add on, continue ASA,
   statin
   UGIB/loose stools/coffee ground emesis: nausea/vom likely secondary to
   viral gastroenteritis. UGIB likely secondary to gastritis given h/o
   high NSAID use chronically. No further episodes, Change to PO PPI [**Hospital1 **]
   then likely QD. HCt stable.
   OSA with witnessed apneas by RN. Sleep study  pending, Sleep consult
   following. He could not tolerate  nasal CPAP last night, would use 4L
   with sleep and will need outpt sleep follow up
   ICU Care
   Nutrition: AHA diet
   Glycemic Control:
   Lines:
   20 Gauge - [**2173-3-5**] 08:23 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 35 minutes